US07781441B2
c) 6-Chloro-4-methyl-2-methylsulfanyl-3,4-dihydro-quinazoline hydroiodide
Methyl iodide (0.30 ml, 4.86 mmol) was added to a suspension of 6-chloro-4-methyl-3,4-dihydro-1H-quinazoline-2-thione (345 mg, 1.62 mmol) in acetone (4.8 ml). The mixture was stirred for 2 hours (r.t.), diluted with diethyl ether and the title compound (538 mg, 94%) was isolated from the reaction mixture by filtration.

reactant | Methyl iodide | 4.86 mmol, 0.30 ml | CI | CH3I
reactant | 6-chloro-4-methyl-3,4-dihydro-1H-quinazoline-2-thione | 1.62 mmol, 345 mg | ClC=1C=C2C(NC(NC2=CC1)=S)C | C9H9ClN2S
solvent | acetone | 4.8 ml | CC(=O)C | C3H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 6-Chloro-4-methyl-2-methylsulfanyl-3,4-dihydro-quinazoline hydroiodide | 538 mg, 94% | I.ClC=1C=C2C(NC(=NC2=CC1)SC)C | InChI=1S/C10H11ClN2S.HI/c1-6-8-5-7(11)3-4-9(8)13-10(12-6)14-2;/h3-6H,1-2H3,(H,12,13);1H
